US05306830
To a mixture of 8-bromo-3-aminochroman (200 mg; 0.9 mmol) in CH2Cl2 (25 ml) and 10% aqueous Na2CO3 (25 ml) was added propionyl chloride (400 mg; 2.2 mmol) and the mixture was stirred for 2 hours. The phases were separated and the organic layer was dried (MgSO4). The solvent was evaporated and the crude amide was reduced with tetrabutylammonium borohydride (400 mg, 1.6 mmol) in a boiling (1:1)-mixture (50 ml) of dichloromethane and 1,2-dichloroethane overnight. The solution was extracted with water, dried (Na2SO4) and the solvent was evaporated yielding 140 mg (58%) of 8-bromo-3-(n-propylamino)chroman.

reactant | 8-bromo-3-aminochroman | 0.9 mmol, 200 mg | BrC=1C=CC=C2CC(COC12)N | C9H10BrNO
reactant | propionyl chloride | 2.2 mmol, 400 mg | C(CC)(=O)Cl | C3H5ClO
reactant | tetrabutylammonium borohydride | 1.6 mmol, 400 mg | [BH4-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | Na2CO3 | 25 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 8-bromo-3-(n-propylamino)chroman | 140 mg, 58% | BrC=1C=CC=C2CC(COC12)NCCC | C12H16BrNO
